US03944632
If 2,6-ditert.butyl-4-nitrosophenol is replaced in this example by an equivalent quantity of 2,6-diisopropyl-4-nitrosophenol, an otherwise identical procedure gives 2,6-diisopropyl-benzoquinone monoxime p-toluenesulphonate of melting point 93° C.

reactant | 2,6-ditert.butyl-4-nitrosophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
reactant | 2,6-diisopropyl-4-nitrosophenol | C(C)(C)C1=C(C(=CC(=C1)N=O)C(C)C)O | C12H17NO2
product | 2,6-diisopropyl-benzoquinone | C(C)(C)C=1C(C(=CC(C1)=O)C(C)C)=O | C12H16O2
